US07244843B2
Step B. Preparation of N-(2-aminoethyl)-2-hydroxybenzamide
To a stirring solution of [2-(2-hydroxy-benzoylamino)-ethyl]-carbamic acid tert-butyl ester (1.0 g, 3.57 mmol) in CH2Cl2 (20 mL) was added 2 M HCl (10.71 mL, 21.42 mmol). The reaction was stirred for 30 min and then conc in vacuo to yield a white solid. The solid was rinsed with Et2O and dissolved in 20 mL of MeOH. To the solution was added DiaionWaz21 J resin (5 g, Supelco). The solution was stirred for 30 min and then filtered. The filtrate was conc in vacuo to yield 629 mg (98%) of the product as a colorless oil. MS (ESI): 181 (M+H).

reactant | [2-(2-hydroxy-benzoylamino)-ethyl]-carbamic acid tert-butyl ester | 3.57 mmol, 1.0 g | C(C)(C)(C)OC(NCCNC(C1=C(C=CC=C1)O)=O)=O | C14H20N2O4
reactant | HCl | 21.42 mmol, 2 M, 10.71 mL | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-2-hydroxybenzamide | 629 mg, 98% | NCCNC(C1=C(C=CC=C1)O)=O | C9H12N2O2
